US07560586B2
(R)-2-(3-{3-[[3-fluoro-4-methoxybenzyl](2,2-diphenylethyl)amino]-1-methyl-propoxy}phenyl)acetic acid hydrochloride salt
Following the procedure of Example 7(d) except (R)-2-(3-{3-[(2,2-diphenylethyl)amino]-1-methyl-propoxy}-phenyl)acetic acid and 3-fluoro-4-methoxybenzaldehyde were used instead of (R)-2-(3-{3-(2,2-diphenylethyl)amino]-3-methyl-propoxy}-phenyl)acetic acid methyl ester and 2-chloro-3-trifluoromethylbenzaldehyde in step (d) the corresponding carboxylic acid was obtained. The crude product was purified by preparative HPLC (TMC CombiPrep PDS, 75×30 mm, 25 mL/min, acetonitrile: H2O, UV detection at 254 nm) to afford the free base. The resulting amine/carboxylic acid was dissolved in Et2O (diethylether) and acidified with 1.0 M HCl/Et2O. The reaction mixture was concentrated in vacuo and dried under reduced pressure to give the title compound as a white solid, 100 mg (99%). MS (ESI) 542.4 (M+H+).

reactant | (R)-2-(3-{3-[(2,2-diphenylethyl)amino]-1-methyl-propoxy}-phenyl)acetic acid | C1(=CC=CC=C1)C(CNCC[C@H](OC=1C=C(C=CC1)CC(=O)O)C)C1=CC=CC=C1 | C26H29NO3
reactant | 3-fluoro-4-methoxybenzaldehyde | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
reactant | 2-chloro-3-trifluoromethylbenzaldehyde | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | HCl Et2O | 1.0 M | Cl.CCOCC
solvent | Et2O | CCOCC | C4H10O
product | (R)-2-(3-{3-[[3-fluoro-4-methoxybenzyl](2,2-diphenylethyl)amino]-1-methyl-propoxy}phenyl)acetic acid hydrochloride salt | Cl.FC=1C=C(CN(CC[C@H](OC=2C=C(C=CC2)CC(=O)O)C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1OC | InChI=1S/C34H36FNO4.ClH/c1-25(40-30-15-9-10-26(20-30)22-34(37)38)18-19-36(23-27-16-17-33(39-2)32(35)21-27)24-31(28-11-5-3-6-12-28)29-13-7-4-8-14-29;/h3-17,20-21,25,31H,18-19,22-24H2,1-2H3,(H,37,38);1H/t25-;/m1./s1
